data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_504014_1,[C@:1]([C:2]([H:14])([H:15])[H:16])([O:7]/[C:4]([N:5]([H:11])[H:12])=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:13])([O:8][H:9])[H:10]>>[C@:1]([C:2]([H:14])([H:15])[H:16])([C@:6]([C:3]([H:17])([H:18])[H:19])([C:4]([N:5]([H:11])[H:12])=[O:7])[H:13])([O:8][H:9])[H:10],47.946019999973686
MR_6859_0,[C@:1]([C:3]([H:13])([H:14])[H:15])([C:4]([C:2]([H:10])([H:11])[H:12])=[O:6])([N:5]([H:8])[H:9])[H:7]>>[C@@:1]1([C:3]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])[C@:4]([C:2]([H:10])([H:11])[H:12])([H:7])[O:6]1,49.20164750001376
MR_156240_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([C:4]([C:5](=[O:7])[H:10])[N:6][H:9])[H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([C@:5]1([H:10])/[C:4](=[N:6]/[H:9])[O:7]1)[H:8],64.26164749997866
MR_641977_1,[N:1]([N:2]([H:9])[H:10])(/[C:3](=[N:6]/[O:5][H:8])[H:11])[O:4][H:7]>>[N:1](=[C:3](/[N:6]([N:2]([H:9])[H:10])[O:5][H:8])[H:11])\[O:4][H:7],71.09386749999288
MR_274645_0,[N:1]([C:2]([N:4]([H:11])[H:12])=[O:8])(/[C:3]([N:5]([H:13])[H:14])=[N:7]/[O:6][H:9])[H:10]>>[N:1](=[C:3](\[N:5]([H:13])[H:14])[N:7]([C:2]([N:4]([H:11])[H:12])=[O:8])[O:6][H:9])\[H:10],48.18509750001212
MR_121231_1,[C:1]([C:5]([C:2]([H:15])([H:17])[H:18])=[C:4]([N:3](/[C:6](=[N:8]\[H:11])[H:12])[H:10])[O:7][H:9])([H:13])([H:14])[H:16]>>[C:1]([C:5]([C:2]([H:15])([H:17])[H:18])(/[C:4](=[N:3]/[H:10])[O:7][H:9])/[C:6](=[N:8]\[H:11])[H:12])([H:13])([H:14])[H:16],56.80882999999753
MR_301077_0,[C:1]([C:3]12[C:2](=[C:5]([H:12])[H:13])[N:6]1[N:7]=[C:4]2[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]1=[C:4]([H:8])[N:7]=[N:6][C:2]1=[C:5]([H:12])[H:13])([H:9])([H:10])[H:11],17.815352499999477
MR_679509_2,[C:1]([C:4](/[C:2]([N:8]=[C:7]([H:18])[H:19])=[N:9]\[H:14])=[C:3]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C:4]1(/[C:3](=[N:5]/[H:11])[N:6]([H:12])[H:13])/[C:2](=[N:9]\[H:14])[N:8]1[C:7]([H:10])([H:18])[H:19])([H:15])([H:16])[H:17],54.42558500002221
MR_406321_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:11])([H:12])[H:16])=[C:7]([N:8]([C:4]([H:17])([H:18])[H:19])[C:6]([C:5]([H:20])([H:21])[H:22])=[O:9])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:11])([H:12])[H:16])([C:6]([C:5]([H:20])([H:21])[H:22])=[O:9])/[C:7](=[N:8]/[C:4]([H:17])([H:18])[H:19])[H:10],67.40542249999564
MR_584361_0,[C:1]1([O:5][H:7])([H:9])[O:4][N:2]([H:8])[C:3]([H:10])=[N:6]1>>[C:1]1([H:9])=[N:6][C:3]([O:5][H:7])([H:10])[N:2]([H:8])[O:4]1,57.54300499999872
MR_692800_0,[C:1]([C:2](=[O:9])[H:14])([C:4]([C:3]([H:17])([H:18])[H:19])([C:5]([N:6]([H:15])[H:16])=[C:7]([H:20])[H:21])[O:10][H:12])([O:8][H:11])[H:13]>>[C:1]([C:2]([C:5]([N:6]([H:15])[H:16])=[C:7]([H:20])[H:21])([O:9][H:12])[H:14])([C:4]([C:3]([H:17])([H:18])[H:19])=[O:10])([O:8][H:11])[H:13],59.66018999996805
MR_516545_0,[C:1]12([H:5])[C:2]([H:6])([O:3]1)[O:4]2>>[C:1]([C:2](=[O:3])[H:6])(=[O:4])[H:5],0.0169424999928935
MR_584628_0,[C:1]1([N:8]=[C:4]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([H:9])[C@:2]([C:3]([H:15])([H:16])[H:17])([H:10])[O:7]1>>[C:1]1([N:8]=[C:4]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([H:9])[C:2]([C:3]([H:15])([H:16])[H:17])([H:10])[O:7]1,64.95566250000991
MR_312373_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])([C:6]([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:10])=[O:9])[O:8][H:11]>>[C:1]1([C:4]([H:15])([H:19])[H:20])([O:8][H:11])[C:6]([C:3]([H:16])([H:17])[H:18])([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:10])[O:9]1,63.89142249998599
MR_404298_0,[C:1]([O:7]/[C:3]([N:5]([H:11])[H:12])=[N:8]\[N:2]([C:4]([N:6]([H:13])[H:14])=[O:9])[H:10])([H:15])([H:16])[H:17]>>[C:1]([O:7][C:4]1([N:6]([H:13])[H:14])[N:2]([H:10])[N:8]=[C:3]([N:5]([H:11])[H:12])[O:9]1)([H:15])([H:16])[H:17],61.16493499998555
MR_37960_1,[C:1]1([N:4]([N:5]([H:8])[H:9])[H:6])([H:7])[C:2]([H:12])([H:13])[C:3]1([H:10])[H:11]>>[C:1](\[C:3]([C:2]([N:5]([H:8])[H:9])([H:12])[H:13])([H:10])[H:11])(=[N:4]\[H:6])[H:7],68.20674000000565
MR_690285_1,[n:1]1([H:11])[c:2](=[O:8])[o:5][n:7][c:4]1[C:3]([O:6][H:10])=[O:9]>>[n:1]1([H:11])[c:2](=[O:8])[o:5][n:7][c:4]1[C:3](=[O:6])[O:9][H:10],39.0468150000774
MR_607657_1,[C:1](/[C:4]([C:2](=[C:3]([N:6]([H:13])[H:14])[N:7]([H:11])[H:12])[N:5]([H:9])[H:10])=[N:8]/[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:4]1=[C:2]([N:5]([H:9])[H:10])[C:3]([N:6]([H:13])[H:14])([N:7]([H:11])[H:12])[N:8]1[H:15])([H:16])([H:17])[H:18],36.79722750001432
MR_474105_1,[N:1]([N:2]([H:7])[H:8])(/[N:5]=[C:4](/[N:3]([H:9])[H:10])[H:11])[H:6]>>[N:1](=[N:5]/[C:4]([N:2]([H:7])[H:8])([N:3]([H:9])[H:10])[H:11])\[H:6],54.92005500002222
MR_518245_0,[C:1]([O:5][C:2]([C:3]([O:6][H:9])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:11])(=[O:7])[O:8][H:10]>>[C:1]1([O:7][H:9])([O:8][H:10])[O:5][C:2]([C:4]([H:14])([H:15])[H:16])([H:11])[C:3]([H:12])([H:13])[O:6]1,51.40040750002683
